US06919355B2
a) N-Butyl-N′-(4-methoxy-2-nitrophenyl)-oxalamide
To a suspension of 44.0 g (164 mmol) of N-(4-methoxy-2-nitrophenyl)-oxalamic acid ethyl ester [J. Med. Chem., 18, 926 (1975)] in 330 ml of toluene 16.8 ml (170 mmol) of n-butylamine is added dropwise keeping the temperature below 20° C., then the mixture is stirred at room temperature overnight. The reaction mixture is concentrated and 200 ml of diethyl ether is added to the residue. The so obtained suspension is filtered, washed with diethyl ether and dried to yield 45.3 g (93%) of the title compound. Mp.: 127-128° C. (diethyl ether).

reactant | N-(4-methoxy-2-nitrophenyl)-oxalamic acid ethyl ester | 164 mmol, 44.0 g | C(C)OC(C(=O)NC1=C(C=C(C=C1)OC)[N+](=O)[O-])=O | C11H12N2O6
reactant | toluene | 170 mmol, 330 ml | C1(=CC=CC=C1)C | C7H8
reactant | n-butylamine | C(CCC)N | C4H11N
product | N-Butyl-N′-(4-methoxy-2-nitrophenyl)-oxalamide | 45.3 g, 93% | C(CCC)NC(C(=O)NC1=C(C=C(C=C1)OC)[N+](=O)[O-])=O | C13H17N3O5
